US08937087B2
To a mixture of (5-chloro-2-oxo-1,3-benzothiazol-3(2H)-yl)acetic acid (300 mg), 1-(5-chloro-1H-benzimidazol-2-yl)-N-methylmethanamine (265 mg) and DMF (20 mL) were added TEA (687 μL), HOBt (200 mg), and WSC.HCl (283 mg), followed by stirring at room temperature overnight. To the reaction mixture was added water, followed by extraction with EtOAc. The organic layer was washed with water, a saturated aqueous NaHCO3 solution, and brine in this order, dried over Na2SO4, and then concentrated under reduced pressure. The obtained solid was washed with EtOAc to obtain N-[(5-chloro-1H-benzimidazol-2-yl)methyl]-2-(5-chloro-2-oxo-1,3-benzothiazol-3(2H)-yl)-N-methylacetamide (339 mg).

reactant | (5-chloro-2-oxo-1,3-benzothiazol-3(2H)-yl)acetic acid | 300 mg | ClC=1C=CC2=C(N(C(S2)=O)CC(=O)O)C1 | C9H6ClNO3S
reactant | 1-(5-chloro-1H-benzimidazol-2-yl)-N-methylmethanamine | 265 mg | ClC1=CC2=C(NC(=N2)CNC)C=C1 | C9H10ClN3
reactant | HOBt | 200 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC.HCl | 283 mg | CCN=C=NCCCN(C)C.Cl
solvent | water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | N-[(5-chloro-1H-benzimidazol-2-yl)methyl]-2-(5-chloro-2-oxo-1,3-benzothiazol-3(2H)-yl)-N-methylacetamide | 339 mg | ClC1=CC2=C(NC(=N2)CN(C(CN2C(SC3=C2C=C(C=C3)Cl)=O)=O)C)C=C1 | C18H14Cl2N4O2S
